US04304770
7-Aminocephalosporanic acid (283.0 g.) and 1-propyl-1H-tetrazole-5-thiol (225.0 g.) were treated in 0.2 M phosphate buffer solution (5.5 l.) in a similar manner to that of Preparation 28-(3) to give 7-amino-3-(1-propyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (125.0 g.).

reactant | 7-Aminocephalosporanic acid | 283.0 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 1-propyl-1H-tetrazole-5-thiol | 225.0 g | C(CC)N1N=NN=C1S | C4H8N4S
solvent | phosphate | 0.2 M, 5.5 l | P(=O)([O-])([O-])[O-]
product | 7-amino-3-(1-propyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 125.0 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCC)C(=O)O)C1=O | C12H16N6O3S2
